US06958327B1
1.1 11β-Fluoro-1,3,5(10)-estratrien-3-ol-17-one
43.55 g of 11β-fluoro-4-estren-17-ol-3-one (150 mmol, Tetrahedron Letters 1995, 2611) is suspended in 1500 ml of acetonitrile, 50 g of copper(II) bromide is added, and it is stirred at room temperature. After 16 hours, additional copper(II) bromide is added in three portions (25 g, 12 g, 6 g) within 6 hours, and finally stirred for another 6 hours at room temperature. The reaction mixture is cooled in an ice bath, mixed with 500 ml of water and extracted with ethyl acetate. The organic phase is mixed with a little methanol, washed with saturated bicarbonate solution and common salt solution and dried with sodium sulfate. After concentration by evaporation, the substance crystallizes out, yield 30.8 g (71% of theory), flash point 233-234° C.

reactant | 11β-fluoro-4-estren-17-ol-3-one | 150 mmol, 43.55 g | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)O)=O | C18H25FO2
reactant | water | 500 ml | O | H2O
solvent | acetonitrile | 1500 ml | C(C)#N | C2H3N
catalyst | copper(II) bromide | 50 g | [Cu](Br)Br
product | 11β-Fluoro-1,3,5(10)-estratrien-3-ol-17-one | F[C@@H]1[C@@H]2C=3C=CC(=CC3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)O | C18H21FO2
